US04281141
3-(imidazol-4-yl)-2-methyl-2-phenylpropanenitrile
As described in Example 1, 5.82 g. of 2-phenylpropanenitrile, 2.04 g. of 50% sodium hydride, and 3.06 g. of 4-chloromethylimidazole hydrochloride were reacted in 40 ml. of dimethylformamide. The mixture was stirred for 5 hours at 100° C., and for 16 hours at ambient temperature. The solvent was then evaporated away under vacuum, and the residue was worked up as described in Example 1 to obtain 0.4 g. of crude free base. The product was purified by preparative thin layer chromatography on silica gel with ethyl acetate as the eluant. The purified product was converted to 0.11 g. of the hydrochloride salt of the desired product, m.p. 187°-189° C.

reactant | 2-phenylpropanenitrile | C1(=CC=CC=C1)C(C#N)C | C9H9N
reactant | sodium hydride | [H-].[Na+]
reactant | 4-chloromethylimidazole hydrochloride | Cl.ClCC=1N=CNC1
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 3-(imidazol-4-yl)-2-methyl-2-phenylpropanenitrile | N1C=NC(=C1)CC(C#N)(C1=CC=CC=C1)C | C13H13N3
